US05683623
(2,3-Difluorophenyl)hexan-1-ol
Quantities: n-butyllithium (31 cm3, 10.0M in hexanes, 0.31 mol), hexanal (31.5 g, 0.31 mol) and 1,2-difluorobenzene (35.5 g, 0.31 mol). The experimental procedure was as described in Example 16.

reactant | n-butyllithium | 0.31 mol, 10.0M, 31 cm3 | C(CCC)[Li]
reactant | hexanal | 0.31 mol, 31.5 g | C(CCCCC)=O | C6H12O
reactant | 1,2-difluorobenzene | 0.31 mol, 35.5 g | FC1=C(C=CC=C1)F | C6H4F2
product | (2,3-Difluorophenyl)hexan-1-ol | FC1=C(C=CC=C1F)C(CCCCC)O | C12H16F2O
